US08008298B2
A solution of 7-iodo-5-triisopropylsilanyl-2-(3,4,5-trimethoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazine (233 mg, 0.410 mmol) in anhydrous tetrahydrofuran (3 ml) was cooled to −78° C. and treated with nBuLi (2.29M in hexanes, 0.25 ml, 0.57 mmol) dropwise. The solution was stirred for 30 seconds and then 2,N-dimethoxy-2,N-dimethyl-propionamide (198 mg, 1.23 mmol), dissolved in THF (5 ml), was added dropwise. The reaction mixture was stirred at −78° C. for 30 minutes and then at room temperature 30 minutes. The reaction mixture was quenched with saturated aqueous NaHSO4 and then partitioned between EtOAc/water. The organic layers were collected, dried over MgSO4, filtered, and concentrated giving a brown oil. The oil was purified by silica gel chromatography using 10-50% EtOAc in hexanes as eluant providing a yellow solid. The yellow solid was dissolved in THF (5 ml) and treated with TBAF (1M in THF, 5.3 ml, 5.3 mmol) and refluxed for 6 hours. The reaction mixture was partitioned between EtOAc/1N HCl. The organic layers were collected, dried over MgSO4, filtered, and concentrated giving a yellow solid. The crude product was purified by preparative thin layer chromatography using 10% [5% NH4OH:MeOH]/DCM as eluant providing 30 mg (11%) of 3-hydroxy-2,2-dimethyl-1-[2-(3,4,5-trimethoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-propan-1-one as a pale yellow solid. MP 227-229° C., M+H=386.

reactant | 7-iodo-5-triisopropylsilanyl-2-(3,4,5-trimethoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazine | 0.410 mmol, 233 mg | IC1=CN(C2=NC=C(N=C21)C2=CC(=C(C(=C2)OC)OC)OC)[Si](C(C)C)(C(C)C)C(C)C | C24H34IN3O3Si
reactant | nBuLi | 0.57 mmol, 2.29M, 0.25 ml | [Li]CCCC
reactant | 2,N-dimethoxy-2,N-dimethyl-propionamide | 1.23 mmol, 198 mg | COC(C(=O)N(C)OC)(C)C | C7H15NO3
reactant | TBAF | 5.3 mmol, 1M, 5.3 ml | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
reactant | THF | 5 ml | C1CCOC1 | C4H8O
reactant | THF | 5 ml | C1CCOC1 | C4H8O
product | 3-hydroxy-2,2-dimethyl-1-[2-(3,4,5-trimethoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-propan-1-one | 30 mg, 11% | OCC(C(=O)C1=CNC2=NC=C(N=C21)C2=CC(=C(C(=C2)OC)OC)OC)(C)C | C20H23N3O5
